US04831050
(±)-Trans-6-Cyano-3,4-dihydro-2,2-dimethyl-4-(3-hydroxy-2-oxo-1-pyrrolidinyl)-2H-1-benzopyran-3-ol
Sodium hydride (80% dispersion in oil, 1.6 g) was added to a solution of (±)-6-cyano-3,4-dihydro-2,2-dimethyl-trans-3-bromo-4-hydroxy-2H-1-benzopyran (14.86 g) in DMSO (100 mL) and the mixture stirred under a dry atmosphere for 45 min when a solution of the 3,4-epoxide resulted. The solution was then cooled to ca 10° C. before 3-trimethylsilyloxy-2-pyrrolidinone (12.86 g) was added along with further DMSO (20 mL) and sodium hydride (2.35 g). The mixture was stirred at room temperature for 22 h after which it was poured into water (600 mL) and extracted with ethyl acetate several times. The combined extracts were washed with water (4×150 mL), brine and dried (Na2SO4). Evaporation gave a crystalline greenish solid (14.4 g) which was triturated with a little ethyl acetate before filtering under suction and washing with a little ethyl acetate followed by 50% ether/ethyl acetate. The crystalline material (7.9 g, 50%) appeared to be a ca 50:50 mixture of the 3'-hydroxy isomers.

reactant | Sodium hydride | 1.6 g | [H-].[Na+]
reactant | (±)-6-cyano-3,4-dihydro-2,2-dimethyl-trans-3-bromo-4-hydroxy-2H-1-benzopyran | 14.86 g | C(#N)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)Br)O)C1 | C12H12BrNO2
reactant | 3-trimethylsilyloxy-2-pyrrolidinone | 12.86 g | C[Si](OC1C(NCC1)=O)(C)C | C7H15NO2Si
reactant | sodium hydride | 2.35 g | [H-].[Na+]
reactant | water | 600 mL | O | H2O
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | (±)-Trans-6-Cyano-3,4-dihydro-2,2-dimethyl-4-(3-hydroxy-2-oxo-1-pyrrolidinyl)-2H-1-benzopyran-3-ol | 14.4 g | C(#N)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)N2C(C(CC2)O)=O)C1 | C16H18N2O4
